US07091232B2
2-Bromo-3-ethoxy-cyclopent-2-enone (Intermediate NINE2) (10.5 g, 51.2 mmol) and K2CO3 (14.2 g, 102 mmol) in toluene (100 mL), benzene (100 mL) and H2O (50 mL) was treated with a solution of 4-fluorophenylboronic acid (9.31 g, 66.5) in EtOH (100 mL). Tetrakis(triphenylphosphine)palladium(0) Pd(PPh3)4 (3 g, 2.6 mmol), bis(dibenzylideneacetone)palladium(0), Pd2(dba)3 (0.47 g, 0.5 mmol) and triphenylphosphine (0.27 g, 1.0 mmol) were added and the mixture was purged with N2 for 15 m. The mixture was heated to 100° C. for 15 h. The mixture was diluted with water and EtOAc:hexane. After extracting with EtOAc:hexane, the combined organic layers were dried over MgSO4, filtered and evaporated to dryness. The crude oil was purified by column chromatography on silica gel with 2.5% EtOAc:CH2Cl2 to give 3-ethoxy-2-(4-fluoro-phenyl)-cyclopent-2-enone (Intermediate NINE3) 7.85 g (70%).

reactant | 2-Bromo-3-ethoxy-cyclopent-2-enone | 51.2 mmol, 10.5 g | BrC=1C(CCC1OCC)=O | C7H9BrO2
reactant | K2CO3 | 102 mmol, 14.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluorophenylboronic acid | 9.31 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
solvent | H2O | 50 mL | O | H2O
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium(0) Pd(PPh3)4 | 2.6 mmol, 3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1.C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | bis(dibenzylideneacetone)palladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | Pd2(dba)3 | 0.5 mmol, 0.47 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | triphenylphosphine | 1.0 mmol, 0.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-ethoxy-2-(4-fluoro-phenyl)-cyclopent-2-enone | 7.85 g, 70% | C(C)OC1=C(C(CC1)=O)C1=CC=C(C=C1)F | C13H13FO2
